US06933311B2
methyl 4-({[(1-naphthylmethyl)amino]carbonyl}amino)-1H-indazole-1-carboxylate
1-Naphthylmethylamine (2.1 mmol) and diisopropylethylamine (2 mmol, 0.26 g) were combined in DMF (6 mL) and treated with methyl 4-({[(2,5-dioxo-1-pyrrolidinyl)oxy]carbonyl}amino)-1H-indazole-1-carboxylate (6.6 g, 2 mmol) at ambient temperature. After stirring for 30 minutes, the reaction mixture was diluted with water (6 ml) and filtered. The filter cake was washed with water:acetonitrile (1:1) and dried to provide the title compound. 1H NMR (DMSO-d6) δ 4.02 (s, 3H); 4.81 (d, 2H); 6.85 (m, 1H); 7.42-7.64 (m, 5H); 7.67 (d, 1H); 7.87 (m, 2H); 7.97 (d, 1H); 8.15 (d, 1H); 8.38 (s, 1H); 8.99 (s, 1H).

reactant | 1-Naphthylmethylamine | 2.1 mmol | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | diisopropylethylamine | 2 mmol, 0.26 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl 4-({[(2,5-dioxo-1-pyrrolidinyl)oxy]carbonyl}amino)-1H-indazole-1-carboxylate | 2 mmol, 6.6 g | O=C1N(C(CC1)=O)OC(=O)NC1=C2C=NN(C2=CC=C1)C(=O)OC | C14H12N4O6
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | 6 ml | O | H2O
product | methyl 4-({[(1-naphthylmethyl)amino]carbonyl}amino)-1H-indazole-1-carboxylate | C1(=CC=CC2=CC=CC=C12)CNC(=O)NC1=C2C=NN(C2=CC=C1)C(=O)OC | C21H18N4O3
